US06093710
A mixture of 6-ethoxycarbonyl-6,7-dihydrobenzo[b]thiophene (1.00 g), 10% palladium on carbon (2.16 g), AcOEt (30 ml) an, MeOH (10 ml) was stirred at r.t. under hydrogen atmosphere for 4 hours. After removal of insoluble solids, the filtrate was concentrated in vacuo to give 6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene (0.96 g) as an oil.

reactant | 6-ethoxycarbonyl-6,7-dihydrobenzo[b]thiophene | 1.00 g | C(C)OC(=O)C1C=CC2=C(SC=C2)C1 | C11H12O2S
reactant | AcOEt | 30 ml | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 2.16 g | [Pd] | Pd
solvent | MeOH | 10 ml | CO | CH4O
product | 6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 0.96 g | C(C)OC(=O)C1CCC2=C(SC=C2)C1 | C11H14O2S
